US08258144B2
N-(4-(4-(3-aminosulfonyl-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N methylacetamide
To a solution of N-(4-(4-(3-aminosulfonyl-phenylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide (20 mg, 0.033 mmol) in MeOH (2 mL), aq. 1N KOH (0.60 mL, 0.60 mmol) was added. The mixture was heated at 60° C. for 3 h. It was concentrated in vacuo. The residue was acidified with HOAc (1 mL) before being purified by HPLC to give the titled compound (7 mg). MS 452.0 (M+H); UV 208.5, 284.1, 317.4 nm.

reactant | N-(4-(4-(3-aminosulfonyl-phenylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide | 0.033 mmol, 20 mg | NS(=O)(=O)C=1C=C(C=CC1)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N(C(C)=O)C)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C28H27N7O5S2
reactant | KOH | 0.60 mmol, 1N, 0.60 mL | [OH-].[K+]
solvent | MeOH | 2 mL | CO | CH4O
product | N-(4-(4-(3-aminosulfonyl-phenylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N methylacetamide | 7 mg | NS(=O)(=O)C=1C=C(C=CC1)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N(C(C)=O)C)NC=C2 | C21H21N7O3S
